US08623889B2
A round-bottom flask containing N-((5-bromo-2-chloropyridin-4-yl)methylene)-2-methylpropan-2-amine (164.5 mg, 0.5969 mmol), DPPPNiCl2 (16.0 mg, 0.0295 mmol) and zinc (84.0 mg, 1.28 mmol) was evacuated and purged with nitrogen 5 times. Acetonitrile (6 mL, 100 mmol) and cyclohexylacetylene (86.0 uL, 0.658 mmol) were added to the flask and the reaction mixture was stirred at 80° C. under a nitrogen balloon for 30 minutes. The reaction mixture was cooled to room temperature, diluted with dichloromethane, and filtered through celite, rinsing with dichloromethane. The filtrate was evaporated in vacuo and the crude product purified via flash chromatography on silica gel (12 g silica, solvent gradient: 0-40% ethyl acetate in dichloromethane) to yield 80.4 mg (55%) of 3-chloro-7-cyclohexyl-2,6-naphthyridine. LCMS (ESI): M+H=247.2; 1H NMR (500 MHz, DMSO) δ 9.39 (s, 1H), 9.28 (s, 1H), 8.20 (s, 1H), 7.88 (s, 1H), 2.91-2.81 (m, 1H), 1.97 (d, J=11.3 Hz, 2H), 1.84 (d, J=13.0 Hz, 2H), 1.75 (d, J=12.9 Hz, 1H), 1.58 (ddd, J=24.8, 12.5, 2.9 Hz, 2H), 1.49-1.37 (m, 2H), 1.27 (ddd, J=16.3, 12.6, 9.2 Hz, 1H).

reactant | N-((5-bromo-2-chloropyridin-4-yl)methylene)-2-methylpropan-2-amine | 0.5969 mmol, 164.5 mg | BrC=1C(=CC(=NC1)Cl)C=NC(C)(C)C | C10H12BrClN2
reactant | Acetonitrile | 100 mmol, 6 mL | C(C)#N | C2H3N
reactant | cyclohexylacetylene | 0.658 mmol, 86.0 uL | C1(CCCCC1)C#C | C8H12
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | zinc | 1.28 mmol, 84.0 mg | [Zn] | Zn
product | 3-chloro-7-cyclohexyl-2,6-naphthyridine | 80.4 mg, 55% | ClC=1N=CC2=CC(=NC=C2C1)C1CCCCC1 | C14H15ClN2
